US04589905
tert-Butylhydrazine hydrochloride (33.6 grams, 0.27 mole) and α-acetyl-α-(dimethylaminomethylene)acetic acid, ethyl ester (50 grams, 0.27 mole) were added to 150 ml of ethanol and the resulting reaction mixture was refluxed for two hours. The reaction mixture was then cooled, and the solvent was removed in vacuo. The residue was taken up in 300 ml of ether, washed with water, washed with saturated sodium bicarbonate, washed with saturated brine, and dried using sodium sulfate and filter paper. The solvent was then removed in vacuo. The residue was distilled at 110° C. at 1.2 mm mercury pressure to provide 49.7 grams of 5-methyl-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester. Yield 88.0%.

reactant | tert-Butylhydrazine hydrochloride | 0.27 mole, 33.6 grams | Cl.C(C)(C)(C)NN
reactant | α-acetyl-α-(dimethylaminomethylene)acetic acid, ethyl ester | 0.27 mole, 50 grams | C(C)(=O)C(C(=O)OCC)=CN(C)C | C9H15NO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-methyl-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 49.7 grams, Yield 88.0% | CC1=C(C=NN1C(C)(C)C)C(=O)OCC | C11H18N2O2
